US07501410B2
1-[tert-Butoxycarbonyl-(1-tert-butoxycarbonyl-5-methyl-1H-pyrazol-3-yl)-amino]-3-iso-propyl-4-oxo-3,4-dihydro-phthalazine-6-carboxylic acid:
3-[tert-Butoxycarbonyl-(6-hydroxymethyl-3-isopropyl-4-oxo-3,4-dihydro-phthalazin-1-yl)-amino]-5-methyl-pyrazole-1-carboxylic acid tert-butyl ester (0.2 g, 0.39 mmol) was dissolved in DMSO (3 ml). To this was added 2-iodoxybenzoic acid (IBX) (0.22 g, 0.78 mmol) in one portion and the reaction mixture was stirred at RT for 24 hours. After this time, the reaction mixture was partitioned between EtOAc (20 ml) and water (20 ml), the organic layer was separated and washed with water (3×20 ml) before being dried (MgSO4), filtered and concentrated under vacuum. The resulting orange oil (0.197 g, 0.38 mmol) was dissolved in DCM (3 ml) and water (3 ml). To this was added sulfamic acid (0.037 g, 0.38 mmol) and the reaction mixture was stirred vigorously at 0° C. After 5 min, sodium chlorite (0.034 g, 0.38 mmol) was added in one portion and the mixture stirred for a further hour. After this time, the reaction mixture was diluted with DCM (20 ml) and washed with water (10 ml). The organic layer was separated, dried (MgSO4), filtered and concentrated under vacuum. The resulting residue was purified by flash column chromatography (elution: 50% heptane, 50% EtOAc to 100% EtOAc) to give the title compound (0.088 g, 44% yield) as a white solid. MS (ESI+)=(M+H)+ 528.41.

reactant | 3-[tert-Butoxycarbonyl-(6-hydroxymethyl-3-isopropyl-4-oxo-3,4-dihydro-phthalazin-1-yl)-amino]-5-methyl-pyrazole-1-carboxylic acid tert-butyl ester | 0.39 mmol, 0.2 g | C(C)(C)(C)OC(=O)N1N=C(C=C1C)N(C1=NN(C(C2=CC(=CC=C12)CO)=O)C(C)C)C(=O)OC(C)(C)C | C26H35N5O6
reactant | 2-iodoxybenzoic acid | 0.78 mmol, 0.22 g | I(=O)(=O)C1=C(C(=O)O)C=CC=C1 | C7H5IO4
reactant | sulfamic acid | 0.38 mmol, 0.037 g | S(N)(O)(=O)=O | H3NO3S
reactant | sodium chlorite | 0.38 mmol, 0.034 g | Cl(=O)[O-].[Na+]
solvent | DMSO | 3 ml | CS(=O)C | C2H6OS
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
solvent | water | 3 ml | O | H2O
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | 1-[tert-Butoxycarbonyl-(1-tert-butoxycarbonyl-5-methyl-1H-pyrazol-3-yl)-amino]-3-iso-propyl-4-oxo-3,4-dihydro-phthalazine-6-carboxylic acid | 0.088 g, 44% yield | C(C)(C)(C)OC(=O)N(C1=NN(C(C2=CC(=CC=C12)C(=O)O)=O)C(C)C)C1=NN(C(=C1)C)C(=O)OC(C)(C)C | C26H33N5O7
